US07402595B2
2-benzyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid 3-methyl ester
To a solution of 2-benzyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester (1.75 g) in THF (10 ml) were added methanol (10 ml) and 8N-aqueous sodium hydroxide solution (1 ml) at room temperature, and the mixture was stirred for 12 hrs. The reaction mixture was concentrated under reduced pressure and water was added, after which conc. hydrochloric acid (1 ml) was added. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was crystallized from ethyl acetate-hexane to give the title compound (1.67 g).

reactant | 2-benzyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester | 1.75 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)=O)CC1=CC=CC=C1 | C26H21NO5
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-benzyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid 3-methyl ester | 1.67 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)O)=O)CC1=CC=CC=C1 | C25H19NO5
